US08198269B2
(2) Synthesis of (2-methyl-3-butenyloxy)acetaldehyde oxime
A solution of the compound obtained in Preparation Example 9-(1) (4.92 g) in formic acid/water (20 mL/5 mL) was stirred at room temperature for 16 hours. Ethanol (30 mL), water (10 mL), sodium acetate (4.63 g) and hydroxylamine sulfate (4.63 g) were added to the reaction solution, and the mixture was stirred at room temperature for eight hours. Saturated aqueous sodium chloride and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed again with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (1.57 g).

reactant | Ethanol | 30 mL | C(C)O | C2H6O
reactant | sodium acetate | 4.63 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine sulfate | 4.63 g | S(=O)(=O)(O)O.NO
reactant | sodium chloride | [Cl-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | formic acid water | 20 mL | C(=O)O.O
solvent | water | 10 mL | O | H2O
product | (2-methyl-3-butenyloxy)acetaldehyde oxime | 1.57 g | CC(COCC=NO)C=C | C7H13NO2
